### PR TITLE
[Merged by Bors] - feat(DihedralGroup): center of D_n for odd n \ne 1 is trivial

### PR DESCRIPTION
**Pull request by seewoo5**
---

Center of dihedral group $D_n$ for odd $n \ge 3$ is trivial. Note that initial code was written by Claude Opus 4.5.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 1]
```diff
@@ -302,5 +302,26 @@ lemma card_conjClasses_odd (hn : Odd n) :
...
+    have hi : (2 : ZMod n) * i = 0 := by simpa [two_mul, ←heq] using add_neg_cancel i
+    simp [hunit.mul_right_eq_zero.mp hi]
+  · have heq := sr.inj (hx (r 1))
+    have h2 : (2 : ZMod n) = 0 := by
+      calc (2 : ZMod n) = (i + 1) - (i - 1) := by ring
+        _ = (i - 1) - (i - 1) := by rw [heq]
+        _ = 0 := by simp only [sub_self]
+    have h2' : (2 : ZMod n) = ((2 : ℕ) : ZMod n) := by norm_cast
+    rw [h2', CharP.cast_eq_zero_iff (ZMod n) n] at h2
+    exact absurd (Nat.le_of_dvd (by norm_num) h2) (by omega)
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean]: Here's a slight golf.
```suggestion
  have : Fact (1 < n) := ⟨by grind⟩
  ext x
  simp only [Subgroup.mem_center_iff, Subgroup.mem_bot]
  refine ⟨fun hx ↦ ?_, fun hx ↦ by simp [hx]⟩
  rcases x with i | i
  · have heq := sr.inj (hx (sr 0))
    rw [zero_add, zero_sub, eq_neg_iff_add_eq_zero, ZMod.add_self_eq_zero_iff_eq_zero hodd] at heq
    rw [heq, r_zero]
  · have heq := sr.inj (hx (r 1))
    rw [sub_eq_iff_eq_add, add_assoc, left_eq_add, ZMod.add_self_eq_zero_iff_eq_zero hodd] at heq
    exact (one_ne_zero heq).elim
```

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 2]
```diff
@@ -302,5 +302,26 @@ lemma card_conjClasses_odd (hn : Odd n) :
   rw [← Nat.mul_div_mul_left _ 2 hn.pos, ← card_commute_odd hn, mul_comm,
     card_comm_eq_card_conjClasses_mul_card, nat_card, Nat.mul_div_left _ (mul_pos two_pos hn.pos)]
 
+theorem center_eq_bot_odd_ge_three (hodd : Odd n) (h3 : 3 ≤ n) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean]: You might consider `n ≠ 1` instead (to make the hypothesis as general/easy to prove as possible, even if it doesn't affect the mathematics).

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 3]
```diff
@@ -1,7 +1,7 @@
 /-
 Copyright (c) 2020 Shing Tak Lam. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Shing Tak Lam
+Authors: Shing Tak Lam, Seewoo Lee
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean]: Personally I would tend not to to add myself as an author for a single theorem, although I don't think there's an explicit policy on this (here's some recent discussion: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Policy.20of.20.22Authors.3A.22.20comment)

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean (hunk 2 above)
Comment (seewoo5) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean]: Thanks, I replaced (and proof still works)

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean (hunk 3 above)
Comment (seewoo5) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean]: I was also unsure about this, so I removed back.

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 4]
```diff
@@ -302,5 +302,18 @@ lemma card_conjClasses_odd (hn : Odd n) :
   rw [← Nat.mul_div_mul_left _ 2 hn.pos, ← card_commute_odd hn, mul_comm,
     card_comm_eq_card_conjClasses_mul_card, nat_card, Nat.mul_div_left _ (mul_pos two_pos hn.pos)]
 
+theorem center_eq_bot_odd_ne_one (hodd : Odd n) (hne1 : n ≠ 1) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean]:
```suggestion
theorem center_eq_bot_of_odd_ne_one (hodd : Odd n) (hne1 : n ≠ 1) :
```

**Review by tb65536 — APPROVED** [review]

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 5]
```diff
@@ -302,5 +302,18 @@ lemma card_conjClasses_odd (hn : Odd n) :
...
+  ext x
+  simp only [Subgroup.mem_center_iff, Subgroup.mem_bot]
+  refine ⟨fun hx ↦ ?_, fun hx ↦ by simp [hx]⟩
+  rcases x with i | i
+  · have heq := sr.inj (hx (sr 0))
+    rw [zero_add, zero_sub, eq_neg_iff_add_eq_zero, ZMod.add_self_eq_zero_iff_eq_zero hodd] at heq
+    rw [heq, r_zero]
+  · have heq := sr.inj (hx (r 1))
+    rw [sub_eq_iff_eq_add, add_assoc, left_eq_add, ZMod.add_self_eq_zero_iff_eq_zero hodd] at heq
+    exact (one_ne_zero heq).elim
```
Comment (adomani) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean]:
```suggestion
  refine (Subgroup.eq_bot_iff_forall _).mpr fun x hx => ?_
  rw [Subgroup.mem_center_iff] at hx
  rcases x with i | i
  · have heq := sr.inj (hx (sr i))
    simp_all
  · have heq := sr.inj (hx (r 1))
    have : Fact (1 < n) := ⟨by grind⟩
    simp [sub_eq_iff_eq_add, add_assoc, ZMod.add_self_eq_zero_iff_eq_zero hodd] at heq
```
This is slightly shorter.

Comment (jcommelin) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean]:
```suggestion
  simp only [Subgroup.eq_bot_iff_forall, Subgroup.mem_center_iff]
  rintro (i | i) h
  · have heq := sr.inj (h (sr i))
    simp_all
  · have heq := sr.inj (h (r 1))
    have : Fact (1 < n) := ⟨by grind⟩
    simp [sub_eq_iff_eq_add, add_assoc, ZMod.add_self_eq_zero_iff_eq_zero hodd] at heq
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+
